US07351851B2
A solution of 4-methoxy-6-trifluoromethylpyran-2-one (2.7 g, 14 mmol) in a methanolic magnesium methanolate solution (8.5% Mg(OMe)2, 8.36 g, 8 mmol) was heated under reflux for 16 hours. The solution was concentrated and taken up in water and ethyl acetate, and the organic phase was brought to pH 5 by adding dilute hydrochloric acid. The organic phase was separated off, dried and concentrated. 1.5 g of crude product were obtained as a yellow oil. Kugelrohr distillation at 0.04 mbar and about 160° C. afforded methyl 6,6,6-trifluoro-3-methoxy-5-oxo-2-hexenoate (1.50 g, 6.6 mmol, 48%) as a pale yellow oil.

reactant | 4-methoxy-6-trifluoromethylpyran-2-one | 14 mmol, 2.7 g | COC1=CC(OC(=C1)C(F)(F)F)=O | C7H5F3O3
reactant | magnesium methanolate | 8 mmol, 8.36 g | C[O-].[Mg+2].C[O-]
product | methyl 6,6,6-trifluoro-3-methoxy-5-oxo-2-hexenoate | 6.6 mmol, 1.50 g, 48% | FC(C(CC(=CC(=O)OC)OC)=O)(F)F | C8H9F3O4
